US08114529B2
101 g of 8-amino-7-quinoline carboaldehyde was reacted with 45 g of 1,3-diacetylbenzene and 100 g of 85% potassium hydroxide in 1800 ml of ethanol for 10 hours while refluxing and a reactant was treated by a normal method to obtain 100 g of 1,3-di(1,10-phenanthroline-2-yl)benzene. 40.8 g of this 1,3-di(1,10-phenanthroline-2-yl)benzene was reacted with 400 ml of phenyl lithium (0.94 M cyclohexane-ether solution) in 750 ml of toluene for 2.5 hours while cooling with ice and a reactant was treated by a normal method. The obtained product was reacted with 118 g of nitrobenzene at 110° C. for 3 hours and a reactant was treated by a normal method to obtain 22.8 g of E-20.

reactant | 8-amino-7-quinoline carboaldehyde | 101 g | NC=1C(=CC=C2C=CC=NC12)C=O | C10H8N2O
reactant | 1,3-diacetylbenzene | 45 g | C(C)(=O)C1=CC(=CC=C1)C(C)=O | C10H10O2
reactant | potassium hydroxide | 100 g | [OH-].[K+]
solvent | ethanol | 1800 ml | C(C)O | C2H6O
product | 1,3-di(1,10-phenanthroline-2-yl)benzene | 100 g | N1=C(C=CC2=CC=C3C=CC=NC3=C12)C1=CC(=CC=C1)C1=NC2=C3N=CC=CC3=CC=C2C=C1 | C30H18N4
